US07074800B1
A solution of 4-chloro-6-methoxy-7-(2-(1-methylpiperidin-4-yl)ethoxy)quinazoline (1.22 g, 3.65 mmol), (prepared as described for the starting material in Example 241), 4-fluoro-5-hydroxy-2-methylindole (723 mg, 4.38 mmol), (prepared as described for the starting material in Example 237), in DMF (20 ml) containing potassium carbonate (756 mg, 5.48 mmol) was stirred at 95° C. for 3 hours. After cooling, the mixture was filtered and the filtrate was evaporated. The residue was purified by column chromatography eluting with methylene chloride/methanol (9/1) followed by methylene chloride/methanol/methanol saturated with ammonia (90/5/5). The fractions containing the expected product were combined and evvaporated. The residue was triturated with ether, filtered, washed with ether and dried under vacuum. The solid was dissolved in methylene chloride/ethyl acetate and the minimum of methanol, filtered and the volatiles were removed under vacuum. The solid was triturated with ether, filtered, washed with ether and dried under vacuum at 50° C. to give 4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxy-7-(2-(1-methylpiperidin-4-yl)ethoxy)quinazoline (1.06 g, 62%).

reactant | 4-chloro-6-methoxy-7-(2-(1-methylpiperidin-4-yl)ethoxy)quinazoline | 3.65 mmol, 1.22 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCC1CCN(CC1)C | C17H22ClN3O2
reactant | 4-fluoro-5-hydroxy-2-methylindole | 4.38 mmol, 723 mg | FC1=C2C=C(NC2=CC=C1O)C | C9H8FNO
reactant | potassium carbonate | 5.48 mmol, 756 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxy-7-(2-(1-methylpiperidin-4-yl)ethoxy)quinazoline | 1.06 g, 62% | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCCC1CCN(CC1)C)C | C26H29FN4O3
